US09062048B2
Step A: 1-(1,4-dioxaspiro[4.5]decan-8-yl)prop-2-en-1-ol
To a solution of 1,4-dioxaspiro[4.5]decane-8-carbaldehyde (860 mg, 5.05 mmol, prepared as described in Pearson, et al. in J. Org. Chem. 1997, 62(16), 5284-5292) in THF (6 mL) cooled to −78° C. under argon was added a vinylmagnesium bromide (20 mL, 20 mmol, 1 M in THF) dropwise. After the complete addition, the reaction mixture was allowed to reach room temperature overnight. It was then re-cooled to −78° C. and quenched with saturated NaHCO3 solution and warmed to room temperature. After extraction with ether, the organic layer was concentrated in vacuo and the residue purified by flash chromatography (silica gel, 0-100% ether/hexanes) to afford the product.

reactant | 1,4-dioxaspiro[4.5]decane-8-carbaldehyde | 5.05 mmol, 860 mg | O1CCOC12CCC(CC2)C=O | C9H14O3
reactant | vinylmagnesium bromide | 20 mmol, 1 M, 20 mL | C(=C)[Mg]Br
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 1-(1,4-dioxaspiro[4.5]decan-8-yl)prop-2-en-1-ol | O1CCOC12CCC(CC2)C(C=C)O | C11H18O3
